US07371872B2
Ethyl 2-[((1R)-1-phenylethyl)amino](2S,4R,6R)-2-(ethoxycarbonyl)-4-fluorobicyclo[3.1.0]hexane-6-carboxylate
To a solution of ethyl 2-[((1R)-1-phenylethyl)amino](2S,4S,6R)-2-(ethoxycarbonyl)-4-hydroxybicyclo[3.1.0]hexane-6-carboxylate (59.0 g crude, 0.163 mol) in CH2Cl2 (690 mL) at −20° C. is added Deoxo-Fluor® (45.1 mL, 0.245 mol) over 15 minutes, maintaining the temperature between −15 and −20° C. The mixture is stirred for 20 minutes at this temperature and at 0° C. for 15 minutes before aqueous 15% Na2CO3 (650 ml) is slowly added while maintaining the temperature below 10° C. The layers are separated and the aqueous layer back extracted with CH2Cl2 (150 mL). The combined organic layers are dried (Na2SO4) and concentrated to a brown oil (73 g). The oil is purified on a pad of silica gel (400 g) eluting with EtOAc/heptane (1:6) to afford the title compound as a yellow oil (49.7 g, 84%).

reactant | ethyl 2-[((1R)-1-phenylethyl)amino](2S,4S,6R)-2-(ethoxycarbonyl)-4-hydroxybicyclo[3.1.0]hexane-6-carboxylate | 0.163 mol, 59.0 g | C1(=CC=CC=C1)[C@@H](C)N[C@@]1(C2[C@H](C2[C@H](C1)O)C(=O)OCC)C(=O)OCC | C20H27NO5
reactant | Deoxo-Fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | Na2CO3 | 650 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 690 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-[((1R)-1-phenylethyl)amino](2S,4R,6R)-2-(ethoxycarbonyl)-4-fluorobicyclo[3.1.0]hexane-6-carboxylate | 49.7 g, 84% | C1(=CC=CC=C1)[C@@H](C)N[C@@]1(C2[C@H](C2[C@@H](C1)F)C(=O)OCC)C(=O)OCC | C20H26FNO4
